US08431569B2
Step 3. 7-Chloro-1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile
To a stirred solution of 7-chloro-1-{[(1R,2R)-2-methyl-4-oxocyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile (121 mg, 0.34 mmol) in MeOH (20 mL) was added sodium borohydride (26 mg, 0.69 mmol) at 0° C. The reaction mixture was left to stir for 30 min, treated with aqueous ammonium chloride and brine, and extracted with EtOAc. The combined organics were dried (sodium sulfate), and concentrated. The diastereomers were separated by flash chromatography to afford the title compound. LRMS (APCI) calc'd for (C19H19ClN4O) [M+H]+, 355.1. found 355.0.

reactant | 7-chloro-1-{[(1R,2R)-2-methyl-4-oxocyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.34 mmol, 121 mg | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@H]3[C@@H](CC(CC3)=O)C)C#N | C19H17ClN4O
reactant | sodium borohydride | 0.69 mmol, 26 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 7-Chloro-1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@H]3[C@@H](C[C@@H](CC3)O)C)C#N | C19H19ClN4O
